US06900316B2
By following the general procedure of Examples 2 and 3, 524.2 mg (5.569 mM) of 4-aminopyridine was reacted with 687.4 mg (17.2 mM) of sodium hydride and 1983.8 mg (5.550 mM) of 2-(methylsulfanyl)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one to provide 66.3% yield (85.8% purity) of 2-(pyridin-4-ylamino)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one.

reactant | 4-aminopyridine | 5.569 mM, 524.2 mg | NC1=CC=NC=C1 | C5H6N2
reactant | sodium hydride | 17.2 mM, 687.4 mg | [H-].[Na+]
reactant | 2-(methylsulfanyl)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one | 5.550 mM, 1983.8 mg | CSC=1N=CC2=C(N1)N(C(C(=C2)C2=CC(=CC(=C2)OC)OC)=O)CC | C18H19N3O3S
product | 2-(pyridin-4-ylamino)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one | 66.3% yield | N1=CC=C(C=C1)NC=1N=CC2=C(N1)N(C(C(=C2)C2=CC(=CC(=C2)OC)OC)=O)CC | C22H21N5O3
